US05849769
2-(2-chloro-6-fluorophenyl)cyclopropylisocyanate prepared as described above was condensed with 2-amino-5-chloropyridine according to the method used in Example 7 to provide N-(cis-2-(2-chloro-6-fluorophenyl)-cyclopropyl)-N'-(5-chloropyrid-2-yl)-urea: 1H-NMR (250 MHz, CDCl3): 1.3-1.4 (m, 1H), 1.5-1.6 (m, 1H), 2.0-2.1 (m, 1H), 3.3-3.4 (m, 1H), 6.7-6.8 (m, 1H), 6.9-7.0 (m, 1H), 7.15-7.30 (m, 2H), 7.4-7.5 (m, 1H), 7.7 (m, 1H), 8.8 (s, 1H), 9.1 (s, 1H).

reactant | 2-(2-chloro-6-fluorophenyl)cyclopropylisocyanate | ClC1=C(C(=CC=C1)F)C1C(C1)N=C=O | C10H7ClFNO
reactant | 2-amino-5-chloropyridine | NC1=NC=C(C=C1)Cl | C5H5ClN2
product | N-(cis-2-(2-chloro-6-fluorophenyl)-cyclopropyl)-N'-(5-chloropyrid-2-yl)-urea | ClC1=C(C(=CC=C1)F)[C@@H]1[C@@H](C1)NC(=O)NC1=NC=C(C=C1)Cl | C15H12Cl2FN3O
